* NGSPICE file created from Current_limit.ext - technology: gf180mcuD

.subckt M1 a_500_n131# a_n500_n339# w_n886_n560# a_n620_n131# VSUBS
X0 a_500_n131# a_n500_n339# a_n620_n131# w_n886_n560# pfet_03v3 ad=0.3p pd=2.2u as=0.3p ps=2.2u w=0.5u l=5u
C0 w_n886_n560# a_500_n131# 0.93149f
C1 a_n500_n339# a_500_n131# 0.0502f
C2 w_n886_n560# a_n500_n339# 2.19386f
C3 a_n620_n131# a_500_n131# 0.60702f
C4 w_n886_n560# a_n620_n131# 0.31737f
C5 a_n620_n131# a_n500_n339# 0.23019f
C6 a_500_n131# VSUBS 0.03729f
C7 a_n620_n131# VSUBS 0.03729f
C8 a_n500_n339# VSUBS 0.13047f
C9 w_n886_n560# VSUBS 7.25551f
.ends

.subckt M0 a_500_n131# a_n500_n339# w_n886_n560# a_n620_n131# VSUBS
X0 a_500_n131# a_n500_n339# a_n620_n131# w_n886_n560# pfet_03v3 ad=0.3p pd=2.2u as=0.3p ps=2.2u w=0.5u l=5u
C0 w_n886_n560# a_500_n131# 0.93149f
C1 a_n500_n339# a_500_n131# 0.0502f
C2 w_n886_n560# a_n500_n339# 2.19386f
C3 a_n620_n131# a_500_n131# 0.60702f
C4 w_n886_n560# a_n620_n131# 0.31737f
C5 a_n620_n131# a_n500_n339# 0.23019f
C6 a_500_n131# VSUBS 0.03729f
C7 a_n620_n131# VSUBS 0.03729f
C8 a_n500_n339# VSUBS 0.13047f
C9 w_n886_n560# VSUBS 7.25551f
.ends

.subckt Current_limit i_SUM ifwd avdd
XM1_0 ifwd ifwd avdd M0_0/a_500_n131# VSUBS M1
XM0_0 M0_0/a_500_n131# M0_0/a_500_n131# avdd i_SUM VSUBS M0
R0 avdd.n33 avdd.n23 142.857
R1 avdd.n33 avdd.n17 142.857
R2 avdd.n41 avdd.n17 142.857
R3 avdd.n41 avdd.n11 142.857
R4 avdd.n49 avdd.n11 142.857
R5 avdd.n49 avdd.n5 142.857
R6 avdd.n121 avdd.n5 142.857
R7 avdd.n87 avdd.n77 142.857
R8 avdd.n87 avdd.n71 142.857
R9 avdd.n95 avdd.n71 142.857
R10 avdd.n95 avdd.n65 142.857
R11 avdd.n103 avdd.n65 142.857
R12 avdd.n103 avdd.n59 142.857
R13 avdd.n111 avdd.n59 142.857
R14 avdd.n120 avdd.n4 58.2755
R15 avdd.n27 avdd.n24 58.2755
R16 avdd.n110 avdd.n58 58.2755
R17 avdd.n81 avdd.n78 58.2755
R18 avdd.n122 avdd.n4 44.5622
R19 avdd.n27 avdd.n26 44.5622
R20 avdd.n112 avdd.n58 44.5622
R21 avdd.n81 avdd.n80 44.5622
R22 avdd avdd.n126 20.2273
R23 avdd.n34 avdd.n22 14.0005
R24 avdd.n34 avdd.n18 14.0005
R25 avdd.n40 avdd.n18 14.0005
R26 avdd.n40 avdd.n10 14.0005
R27 avdd.n50 avdd.n10 14.0005
R28 avdd.n50 avdd.n6 14.0005
R29 avdd.n120 avdd.n6 14.0005
R30 avdd.n32 avdd.n24 14.0005
R31 avdd.n32 avdd.n16 14.0005
R32 avdd.n42 avdd.n16 14.0005
R33 avdd.n42 avdd.n12 14.0005
R34 avdd.n48 avdd.n12 14.0005
R35 avdd.n48 avdd.n3 14.0005
R36 avdd.n123 avdd.n3 14.0005
R37 avdd.n88 avdd.n76 14.0005
R38 avdd.n88 avdd.n72 14.0005
R39 avdd.n94 avdd.n72 14.0005
R40 avdd.n94 avdd.n64 14.0005
R41 avdd.n104 avdd.n64 14.0005
R42 avdd.n104 avdd.n60 14.0005
R43 avdd.n110 avdd.n60 14.0005
R44 avdd.n86 avdd.n78 14.0005
R45 avdd.n86 avdd.n70 14.0005
R46 avdd.n96 avdd.n70 14.0005
R47 avdd.n96 avdd.n66 14.0005
R48 avdd.n102 avdd.n66 14.0005
R49 avdd.n102 avdd.n57 14.0005
R50 avdd.n113 avdd.n57 14.0005
R51 avdd.n120 avdd.n119 6.3005
R52 avdd.n121 avdd.n120 6.3005
R53 avdd.n7 avdd.n6 6.3005
R54 avdd.n6 avdd.n5 6.3005
R55 avdd.n51 avdd.n50 6.3005
R56 avdd.n50 avdd.n49 6.3005
R57 avdd.n10 avdd.n9 6.3005
R58 avdd.n11 avdd.n10 6.3005
R59 avdd.n40 avdd.n39 6.3005
R60 avdd.n41 avdd.n40 6.3005
R61 avdd.n19 avdd.n18 6.3005
R62 avdd.n18 avdd.n17 6.3005
R63 avdd.n35 avdd.n34 6.3005
R64 avdd.n34 avdd.n33 6.3005
R65 avdd.n22 avdd.n21 6.3005
R66 avdd.n25 avdd.n24 6.3005
R67 avdd.n24 avdd.n23 6.3005
R68 avdd.n32 avdd.n31 6.3005
R69 avdd.n33 avdd.n32 6.3005
R70 avdd.n16 avdd.n15 6.3005
R71 avdd.n17 avdd.n16 6.3005
R72 avdd.n43 avdd.n42 6.3005
R73 avdd.n42 avdd.n41 6.3005
R74 avdd.n13 avdd.n12 6.3005
R75 avdd.n12 avdd.n11 6.3005
R76 avdd.n48 avdd.n47 6.3005
R77 avdd.n49 avdd.n48 6.3005
R78 avdd.n3 avdd.n2 6.3005
R79 avdd.n5 avdd.n3 6.3005
R80 avdd.n124 avdd.n123 6.3005
R81 avdd.n110 avdd.n109 6.3005
R82 avdd.n111 avdd.n110 6.3005
R83 avdd.n61 avdd.n60 6.3005
R84 avdd.n60 avdd.n59 6.3005
R85 avdd.n105 avdd.n104 6.3005
R86 avdd.n104 avdd.n103 6.3005
R87 avdd.n64 avdd.n63 6.3005
R88 avdd.n65 avdd.n64 6.3005
R89 avdd.n94 avdd.n93 6.3005
R90 avdd.n95 avdd.n94 6.3005
R91 avdd.n73 avdd.n72 6.3005
R92 avdd.n72 avdd.n71 6.3005
R93 avdd.n89 avdd.n88 6.3005
R94 avdd.n88 avdd.n87 6.3005
R95 avdd.n76 avdd.n75 6.3005
R96 avdd.n114 avdd.n113 6.3005
R97 avdd.n57 avdd.n56 6.3005
R98 avdd.n59 avdd.n57 6.3005
R99 avdd.n102 avdd.n101 6.3005
R100 avdd.n103 avdd.n102 6.3005
R101 avdd.n67 avdd.n66 6.3005
R102 avdd.n66 avdd.n65 6.3005
R103 avdd.n97 avdd.n96 6.3005
R104 avdd.n96 avdd.n95 6.3005
R105 avdd.n70 avdd.n69 6.3005
R106 avdd.n71 avdd.n70 6.3005
R107 avdd.n86 avdd.n85 6.3005
R108 avdd.n87 avdd.n86 6.3005
R109 avdd.n79 avdd.n78 6.3005
R110 avdd.n78 avdd.n77 6.3005
R111 avdd.n29 avdd.n28 5.16141
R112 avdd.n28 avdd.n20 5.16141
R113 avdd.n83 avdd.n82 5.16141
R114 avdd.n82 avdd.n74 5.16141
R115 avdd.n108 avdd.n54 5.16141
R116 avdd.n26 avdd.n23 4.81843
R117 avdd.n122 avdd.n121 4.81843
R118 avdd.n80 avdd.n77 4.81843
R119 avdd.n112 avdd.n111 4.81843
R120 avdd.n126 avdd.n125 4.7075
R121 avdd.n118 avdd.n117 4.7075
R122 avdd.n116 avdd.n115 4.7075
R123 avdd.n29 avdd.n25 4.5005
R124 avdd.n31 avdd.n30 4.5005
R125 avdd.n15 avdd.n14 4.5005
R126 avdd.n44 avdd.n43 4.5005
R127 avdd.n45 avdd.n13 4.5005
R128 avdd.n47 avdd.n46 4.5005
R129 avdd.n2 avdd.n1 4.5005
R130 avdd.n125 avdd.n124 4.5005
R131 avdd.n36 avdd.n35 4.5005
R132 avdd.n37 avdd.n19 4.5005
R133 avdd.n39 avdd.n38 4.5005
R134 avdd.n9 avdd.n8 4.5005
R135 avdd.n52 avdd.n51 4.5005
R136 avdd.n53 avdd.n7 4.5005
R137 avdd.n119 avdd.n118 4.5005
R138 avdd.n21 avdd.n20 4.5005
R139 avdd.n85 avdd.n84 4.5005
R140 avdd.n69 avdd.n68 4.5005
R141 avdd.n98 avdd.n97 4.5005
R142 avdd.n99 avdd.n67 4.5005
R143 avdd.n101 avdd.n100 4.5005
R144 avdd.n56 avdd.n55 4.5005
R145 avdd.n115 avdd.n114 4.5005
R146 avdd.n83 avdd.n79 4.5005
R147 avdd.n90 avdd.n89 4.5005
R148 avdd.n91 avdd.n73 4.5005
R149 avdd.n93 avdd.n92 4.5005
R150 avdd.n63 avdd.n62 4.5005
R151 avdd.n106 avdd.n105 4.5005
R152 avdd.n107 avdd.n61 4.5005
R153 avdd.n109 avdd.n108 4.5005
R154 avdd.n75 avdd.n74 4.5005
R155 avdd.n123 avdd.n122 1.33893
R156 avdd.n26 avdd.n22 1.33893
R157 avdd.n113 avdd.n112 1.33893
R158 avdd.n80 avdd.n76 1.33893
R159 avdd.n28 avdd.n27 0.9005
R160 avdd.n82 avdd.n81 0.9005
R161 avdd.n58 avdd.n54 0.9005
R162 avdd.n4 avdd.n0 0.9005
R163 avdd.n116 avdd.n54 0.454413
R164 avdd.n117 avdd.n0 0.454413
R165 avdd.n126 avdd.n0 0.454413
R166 avdd.n117 avdd.n116 0.427022
R167 avdd.n35 avdd.n21 0.1445
R168 avdd.n35 avdd.n19 0.1445
R169 avdd.n39 avdd.n19 0.1445
R170 avdd.n39 avdd.n9 0.1445
R171 avdd.n51 avdd.n9 0.1445
R172 avdd.n51 avdd.n7 0.1445
R173 avdd.n119 avdd.n7 0.1445
R174 avdd.n31 avdd.n25 0.1445
R175 avdd.n31 avdd.n15 0.1445
R176 avdd.n43 avdd.n15 0.1445
R177 avdd.n43 avdd.n13 0.1445
R178 avdd.n47 avdd.n13 0.1445
R179 avdd.n47 avdd.n2 0.1445
R180 avdd.n124 avdd.n2 0.1445
R181 avdd.n30 avdd.n29 0.1445
R182 avdd.n30 avdd.n14 0.1445
R183 avdd.n44 avdd.n14 0.1445
R184 avdd.n45 avdd.n44 0.1445
R185 avdd.n46 avdd.n45 0.1445
R186 avdd.n46 avdd.n1 0.1445
R187 avdd.n125 avdd.n1 0.1445
R188 avdd.n36 avdd.n20 0.1445
R189 avdd.n37 avdd.n36 0.1445
R190 avdd.n38 avdd.n37 0.1445
R191 avdd.n38 avdd.n8 0.1445
R192 avdd.n52 avdd.n8 0.1445
R193 avdd.n53 avdd.n52 0.1445
R194 avdd.n118 avdd.n53 0.1445
R195 avdd.n89 avdd.n75 0.1445
R196 avdd.n89 avdd.n73 0.1445
R197 avdd.n93 avdd.n73 0.1445
R198 avdd.n93 avdd.n63 0.1445
R199 avdd.n105 avdd.n63 0.1445
R200 avdd.n105 avdd.n61 0.1445
R201 avdd.n109 avdd.n61 0.1445
R202 avdd.n85 avdd.n79 0.1445
R203 avdd.n85 avdd.n69 0.1445
R204 avdd.n97 avdd.n69 0.1445
R205 avdd.n97 avdd.n67 0.1445
R206 avdd.n101 avdd.n67 0.1445
R207 avdd.n101 avdd.n56 0.1445
R208 avdd.n114 avdd.n56 0.1445
R209 avdd.n84 avdd.n83 0.1445
R210 avdd.n84 avdd.n68 0.1445
R211 avdd.n98 avdd.n68 0.1445
R212 avdd.n99 avdd.n98 0.1445
R213 avdd.n100 avdd.n99 0.1445
R214 avdd.n100 avdd.n55 0.1445
R215 avdd.n115 avdd.n55 0.1445
R216 avdd.n90 avdd.n74 0.1445
R217 avdd.n91 avdd.n90 0.1445
R218 avdd.n92 avdd.n91 0.1445
R219 avdd.n92 avdd.n62 0.1445
R220 avdd.n106 avdd.n62 0.1445
R221 avdd.n107 avdd.n106 0.1445
R222 avdd.n108 avdd.n107 0.1445
R223 ifwd ifwd.n1 14.5893
R224 ifwd ifwd.n0 6.09231
C0 M0_0/a_500_n131# ifwd 0.03808f
C1 avdd M0_0/a_500_n131# 0.86817f
C2 i_SUM ifwd 0.01909f
C3 avdd i_SUM 0.06413f
C4 avdd ifwd 0.44289f
C5 i_SUM M0_0/a_500_n131# 0.35509f
C6 i_SUM VSUBS 0.10432f
C7 ifwd.n0 VSUBS 0.15125f
C8 ifwd.n1 VSUBS 0.01842f
C9 avdd.n0 VSUBS 0
C10 avdd.n1 VSUBS 0
C11 avdd.n2 VSUBS 0
C12 avdd.n3 VSUBS 0
C13 avdd.n4 VSUBS 0
C14 avdd.n5 VSUBS 0
C15 avdd.n6 VSUBS 0
C16 avdd.n7 VSUBS 0
C17 avdd.n8 VSUBS 0
C18 avdd.n9 VSUBS 0
C19 avdd.n10 VSUBS 0
C20 avdd.n11 VSUBS 0
C21 avdd.n12 VSUBS 0
C22 avdd.n13 VSUBS 0
C23 avdd.n14 VSUBS 0
C24 avdd.n15 VSUBS 0
C25 avdd.n16 VSUBS 0
C26 avdd.n17 VSUBS 0
C27 avdd.n18 VSUBS 0
C28 avdd.n19 VSUBS 0
C29 avdd.n20 VSUBS 0
C30 avdd.n21 VSUBS 0
C31 avdd.n22 VSUBS 0
C32 avdd.n23 VSUBS 0
C33 avdd.n24 VSUBS 0
C34 avdd.n25 VSUBS 0
C35 avdd.n27 VSUBS 0
C36 avdd.n28 VSUBS 0
C37 avdd.n29 VSUBS 0
C38 avdd.n30 VSUBS 0
C39 avdd.n31 VSUBS 0
C40 avdd.n32 VSUBS 0
C41 avdd.n33 VSUBS 0
C42 avdd.n34 VSUBS 0
C43 avdd.n35 VSUBS 0
C44 avdd.n36 VSUBS 0
C45 avdd.n37 VSUBS 0
C46 avdd.n38 VSUBS 0
C47 avdd.n39 VSUBS 0
C48 avdd.n40 VSUBS 0
C49 avdd.n41 VSUBS 0
C50 avdd.n42 VSUBS 0
C51 avdd.n43 VSUBS 0
C52 avdd.n44 VSUBS 0
C53 avdd.n45 VSUBS 0
C54 avdd.n46 VSUBS 0
C55 avdd.n47 VSUBS 0
C56 avdd.n48 VSUBS 0
C57 avdd.n49 VSUBS 0
C58 avdd.n50 VSUBS 0
C59 avdd.n51 VSUBS 0
C60 avdd.n52 VSUBS 0
C61 avdd.n53 VSUBS 0
C62 avdd.n54 VSUBS 0
C63 avdd.n55 VSUBS 0
C64 avdd.n56 VSUBS 0
C65 avdd.n57 VSUBS 0
C66 avdd.n58 VSUBS 0
C67 avdd.n59 VSUBS 0
C68 avdd.n60 VSUBS 0
C69 avdd.n61 VSUBS 0
C70 avdd.n62 VSUBS 0
C71 avdd.n63 VSUBS 0
C72 avdd.n64 VSUBS 0
C73 avdd.n65 VSUBS 0
C74 avdd.n66 VSUBS 0
C75 avdd.n67 VSUBS 0
C76 avdd.n68 VSUBS 0
C77 avdd.n69 VSUBS 0
C78 avdd.n70 VSUBS 0
C79 avdd.n71 VSUBS 0
C80 avdd.n72 VSUBS 0
C81 avdd.n73 VSUBS 0
C82 avdd.n74 VSUBS 0
C83 avdd.n75 VSUBS 0
C84 avdd.n76 VSUBS 0
C85 avdd.n77 VSUBS 0
C86 avdd.n78 VSUBS 0
C87 avdd.n79 VSUBS 0
C88 avdd.n81 VSUBS 0
C89 avdd.n82 VSUBS 0
C90 avdd.n83 VSUBS 0
C91 avdd.n84 VSUBS 0
C92 avdd.n85 VSUBS 0
C93 avdd.n86 VSUBS 0
C94 avdd.n87 VSUBS 0
C95 avdd.n88 VSUBS 0
C96 avdd.n89 VSUBS 0
C97 avdd.n90 VSUBS 0
C98 avdd.n91 VSUBS 0
C99 avdd.n92 VSUBS 0
C100 avdd.n93 VSUBS 0
C101 avdd.n94 VSUBS 0
C102 avdd.n95 VSUBS 0
C103 avdd.n96 VSUBS 0
C104 avdd.n97 VSUBS 0
C105 avdd.n98 VSUBS 0
C106 avdd.n99 VSUBS 0
C107 avdd.n100 VSUBS 0
C108 avdd.n101 VSUBS 0
C109 avdd.n102 VSUBS 0
C110 avdd.n103 VSUBS 0
C111 avdd.n104 VSUBS 0
C112 avdd.n105 VSUBS 0
C113 avdd.n106 VSUBS 0
C114 avdd.n107 VSUBS 0
C115 avdd.n108 VSUBS 0
C116 avdd.n109 VSUBS 0
C117 avdd.n110 VSUBS 0
C118 avdd.n111 VSUBS 0
C119 avdd.n113 VSUBS 0
C120 avdd.n114 VSUBS 0
C121 avdd.n115 VSUBS 0
C122 avdd.n116 VSUBS 0
C123 avdd.n117 VSUBS 0
C124 avdd.n118 VSUBS 0
C125 avdd.n119 VSUBS 0
C126 avdd.n120 VSUBS 0
C127 avdd.n121 VSUBS 0
C128 avdd.n123 VSUBS 0
C129 avdd.n124 VSUBS 0
C130 avdd.n125 VSUBS 0
C131 avdd.n126 VSUBS 0
C132 avdd VSUBS -17.62512f
C133 M0_0/a_500_n131# VSUBS -0.74119f
C134 ifwd VSUBS -0.28978f
.ends

